US07053107B2
3-Cyclopropyl-prop-2-ynylazide
3-Cyclopropyl-prop-2-yn-1-ol (3.28 g, 34.1 mmol) was dissolved in 40 mL toluene, DPPA (11.26 g, 40.9 mmol) was added, followed with DBU (6.24 g, 40.9 mmol) while maintaining temperature with a water bath. The mixture was stirred at room temperature for one hour and was diluted with 100 mL hexane and 15 mL CH2Cl2. The mixture was washed with water four times and once with brine, dried over Na2SO4, filtered and concentrated under rotovap with cold water bath to remove most of organic solvent leaving some toluene (product volatile). The residual oil was used for the next step.

reactant | 3-Cyclopropyl-prop-2-yn-1-ol | 34.1 mmol, 3.28 g | C1(CC1)C#CCO | C6H8O
reactant | DPPA | 40.9 mmol, 11.26 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 40.9 mmol, 6.24 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 100 mL | CCCCCC | C6H14
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyclopropyl-prop-2-ynylazide | C1(CC1)C#CCN=[N+]=[N-] | C6H7N3
